US08685970B2
To a mixture of Methyl 2-(3-(trifluoromethoxy)phenyl)quinoline-8-carboxylate (1.1 g, 3.16 mmol) dissolved in THF (20 mL) was added a mixture of lithium hydroxide (227 mg, 9.5 mmol) in water (15 mL). The reaction was stirred 70 hours. The reaction mixture was concentrated to remove the THF and the aqueous solution was adjusted to pH=1 with 4N HCl (aq). The solid was collected by filtration, rinsed with water, and dried under vacuum to obtain 2-(3-(trifluoromethoxy)phenyl)quinoline-8-carboxylic acid as a tan solid (973 mg, 92% yield).

reactant | Methyl 2-(3-(trifluoromethoxy)phenyl)quinoline-8-carboxylate | 3.16 mmol, 1.1 g | FC(OC=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)C(=O)OC)(F)F | C18H12F3NO3
reactant | lithium hydroxide | 9.5 mmol, 227 mg | [OH-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 2-(3-(trifluoromethoxy)phenyl)quinoline-8-carboxylic acid | 973 mg, 92% yield | FC(OC=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)C(=O)O)(F)F | C17H10F3NO3
